Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
IV Dye, Iodine Containing Contrast Media / Oxycodone / 
cilostazol / Varenicline
 
Attending: ___.
 
Chief Complaint:
Anemia, Melena, SOB
 
Major Surgical or Invasive Procedure:
Upper endoscopy ___

 
History of Present Illness:
___ yo female with history of Afib on Xarelto, COPD, HTN, PAD who 
presents for abnormal labs. She noted dark, tarry, stool on 
___ and presented to PCP ___ ___, where H/H was noted 
to be 8.8/28.6 from prior 11.___.6 (baseline Hct about 38). She 
has also been experiencing bright red blood with wiping, she 
believes from her hemorrhoids. PCP called pt who agreed to come 
to ED. She had colonoscopy in ___ with showed a benign polyp, 
internal hemorrhoids, and diverticulosis. Her last BM was ___, 
was reportedly "regular." She currently complains of increased 
exertional fatigue and has been feeling more SOB than her 
baseline.  Over the last 6 months she has noticed she becomes 
increasingly out of breath, walking or climbing stairs.  She 
becomes SOB after 6 stairs or less than 1 block, requiring her 
to stop, and at times use albuterol inhaler. She used to use her 
only use her inhaler ___ times per day, now she uses it over 
four times a day and nebulizers twice a day. 

She denies any fevers, chills, nausea/vomit, diarrhea, dysuria, 
rash, unintentional weight loss.  
 
 
In the ED, initial vitals: 0 98 64 149/85 20 98% RA 
Labs significant for:
WBC 5.0 HGB 8.8 HCT 28.4( Last baseline of 11.___/34.6 in 
___ MCV PLT 240 
___ 16.7 INR 1.5 PTT 38.8
Chem 7 was normal

She was given albuterol nebs and started on IV normal saline
 
On transfer, vitals were:  T:98.4  BP: 152/60 P:68 R:18 18 
O2:97%RA  
On arrival to the floor patient was stable and in good spirits. 
She notes that she had some blood per rectum on her underwear.  

 
Past Medical History:
ASTHMA/COPD/Tobacco use, Peripheral Arterial disease s/p recent 
common iliac stenting, ATRIAL TACHYCARDIA, ATYPICAL CHEST PAIN, 
CERVICAL RADICULITIS, CERVICAL SPONDYLOSIS, CORONARY ARTERY 
DISEASE  
HEADACHE, HIP REPLACEMENT, HYPERLIPIDEMIA, HYPERTENSION, 
OSTEOARTHRITIS, HERPES ZOSTER, TOBACCO ABUSE, ATRIAL 
FIBRILLATION  
ANXIETY,GASTROINTESTINAL BLEEDING, OSTEOARTHRITIS, 
ATHEROSCLEROTIC CARDIOVASCULAR DISEASE, PERIPHERAL VASCULAR 
DISEASE, CATARACT SURGERY ___  
Surgery:  
BILATERAL COMMON ILIAC ARTERY STENTING ___  
BUNIONECTOMY  
HIP REPLACEMENT  
PRIOR CESAREAN SECTION  
GANGLION CYST
 
Social History:
___
Family History:
Mother: ___, HTN  
Father: ___ CA  
Brother: CA?  
Brother: ___ 
 
Physical ___:
ADMISSION PHYSICAL EXAM:
Vitals: T:98.4  BP: 152/60 P:68 R:18 18 O2:97%RA  
GENERAL: Well nourished, well appearing AA female, sitting up in 
bed Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally though decreased air 
movement. No no wheezes, rales, rhonchi  
CV: Irregularly irregular rate and rhythm, normal S1 S2, ___ 
systolic murmur heard best at RUSB, no rubs or gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly 
Rectum: No obvious hemorrhoids  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: clear
NEURO: No gross deficits.

DISCHARGE PHYSICAL EXAM:
Vitals: T: 98.2, BP: 146-152/67-78, P:57-60, ___, O2:97%RA  
GENERAL: Well nourished, well appearing, sitting up in bed, NAD
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Scattered wheezes bilaterally but no resp distress 
CV: Irregularly irregular rate and rhythm, normal S1 S2, ___ 
systolic murmur heard best at RUSB, no rubs or gallops
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: clear
NEURO: No gross deficits. 
 
Pertinent Results:
ADMISSION LABS:
================
___ 12:28PM BLOOD WBC-5.0 RBC-3.28* Hgb-8.8* Hct-28.4* 
MCV-87 MCH-26.8 MCHC-31.0* RDW-16.1* RDWSD-50.4* Plt ___
___ 02:28PM BLOOD ___ PTT-38.8* ___
___ 12:28PM BLOOD Glucose-96 UreaN-18 Creat-1.0 Na-137 
K-3.6 Cl-98 HCO3-28 AnGap-15

PERTINENT FINDINGS:
====================
EGD negative for evidence of bleeding

DISCHARGE LABS:
================
___ 06:35AM BLOOD WBC-4.7 RBC-3.38* Hgb-9.1* Hct-29.1* 
MCV-86 MCH-26.9 MCHC-31.3* RDW-16.1* RDWSD-50.5* Plt ___
___ 06:35AM BLOOD ___ PTT-37.1* ___
___ 06:35AM BLOOD Glucose-99 UreaN-8 Creat-0.9 Na-137 
K-3.2* Cl-98 HCO3-30 AnGap-12
___ 06:35AM BLOOD Calcium-9.5 Phos-3.3 Mg-2.___ PMH of CAD, PVD, and COPD and history of recurrent chest 
pain present with drop in HCT and progressive SOB. 

ACTIVE PROBLEMS
#GI Bleed: Presented to PCP with melena and wiping BRBPR. CBC 
was taken and Hgb found to drop from 11.3->8.8. Two large bore 
IVs were placed, started on IV PPI, and she was type and 
screened. Vitals remained stable, so patient was continued on 
home rivaroxaban. She was evaluated by GI who recommended upper 
GI endoscopy, which showed no evidence of bleeding. She remained 
hemodynamically stable throughout the admission. Hgb 9.1 on day 
of discharge. She was discharged home on both her Xarelto and 
ASA.

#SOB: Long standing history of smoking and COPD. Progressive 
exertional dyspnea despite use of Spiriva, advair, fluticasone 
nasal spray, theophylline, and albuterol nebulizers. Has 
increased rescue inhaler use.  Etiology unclear, does not appear 
to be infectious given chronicity. Most likely is progression of 
underlying COPD. PFT's were obtained while in-house. Smoking 
cessation was also discussed. Will need continued outpatient f/u 
re: her COPD.

CHRONIC PROBLEMS
#Afib: Continued home amiodarone and diltiazem. Continued 
rivaroxaban for anticoagulation, as discussed above.

#HTN: Stable, continued on home diltiazem, Imdur, HCTZ

#Anxiety/insomnia: stable, continued home lorazepam QHS PRN for 
insomnia/anxiety.

#Dry eyes: History of glaucoma. Continued home latanoprost 
ophthalmic drops.

#PAD: Stable, continued on home atorvastatin, s/p iliac stent. 
OK to continue aspirin as well.

TRANSITIONAL ISSUES:
- Should consider outpatient colonoscopy to potentially identify 
any source of lower GI Bleed.
- Given stable hemoglobin/hematocrit while inpatient as well as 
no evidence of bleeding on EGD, her Xarelto and Aspirin were 
continued on discharge
- Was treated with IV PPI while inpatient, but given no evidence 
of active bleeding, was discharged on home Ranitidine 300mg PO 
daily
- Continue to encourage smoking cessation

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 20 mg PO QPM 
2. Acetaminophen 325 mg PO Q6H:PRN pain 
3. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 10 mg PO QPM 
6. Diltiazem Extended-Release 180 mg PO BID 
7. Fluticasone Propionate NASAL 2 SPRY NU BID nasal congestion 
8. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
9. Hydrochlorothiazide 50 mg PO DAILY 
10. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
11. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE QHS 
12. Lorazepam 0.5 mg PO QHS:PRN insomnia 
13. Multivitamins W/minerals 1 TAB PO DAILY 
14. Ranitidine 300 mg PO DAILY 
15. Theophylline ER 300 mg PO BID 
16. Tiotropium Bromide 1 CAP IH BID 
17. TraMADOL (Ultram) 50 mg PO BID pain 
18. Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN 
irritation 
19. Amiodarone 200 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
3. Amiodarone 200 mg PO DAILY 
4. Atorvastatin 10 mg PO QPM 
5. Artificial Tears Preserv. Free ___ DROP BOTH EYES PRN 
irritation 
6. Diltiazem Extended-Release 180 mg PO BID 
7. Fluticasone Propionate NASAL 2 SPRY NU BID nasal congestion 
8. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
9. Hydrochlorothiazide 50 mg PO DAILY 
10. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
11. Latanoprost 0.005% Ophth. Soln. 1 DROP LEFT EYE QHS 
12. Lorazepam 0.5 mg PO QHS:PRN insomnia 
13. Rivaroxaban 20 mg PO QPM 
14. Theophylline ER 300 mg PO BID 
15. Ranitidine 300 mg PO DAILY 
16. TraMADOL (Ultram) 50 mg PO BID pain 
17. Tiotropium Bromide 1 CAP IH BID 
18. Multivitamins W/minerals 1 TAB PO DAILY 
19. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- Anemia

Secondary:
- Afib
- CAD
- HTN
- COPD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to ___ due to 
a decrease in blood count on laboratory testing. Because we were 
concerned for a bleed in your GI tract, you underwent an upper 
endoscopy. Fortunately, this did not show any evidence of 
bleeding. Your blood counts remained stable while in the 
hospital. You were discharged with plan for outpatient follow up 
with GI for colonoscopy in the future. Pulmonary function 
testing was done as well while you were here. You will also 
follow up with Dr. ___ in his clinic.

It was a pleasure taking care of your at ___. If you have any 
questions about the care you received, please do not hesitate to 
ask.

Sincerely,
Your Inpatient ___ Care Team

 
Followup Instructions:
___